US06965040B1
Synthesis of 2-(2-nitrophenyl)propyl triflouroacetate (FIG. 4A, eq. 4, R=105a).
To a solution of 2-(2-nitrophenyl)propanol (0.219 g, 1.20 mmol) and triethylamine (0.33 mL, 2.4 mmol) in 3 mL THF, trifluoroacetic anhydride (0.27 mL, 1.92 mmol) was added slowly in drops. The reaction was monitored by TLC using 2:7 ethyl acetate:hexane. After 3.5 h the reaction mixture was quenched with water. It was then extracted with DCM and the organic layer was washed with water and brine and then dried over anhydrous sodium sulfate. On evaporating the organic layer 420 mg of crude product was obtained. 1H NMR (300 MHz, CDCl3) δ (ppm): 7.80 (d, 1H, Ar—H), 7.61 (t, 1H, Ar—H), 7.55-7.36 (m, 2H, Ar—H), 4.52 (d, 2H, CH2), 3.79 (q, 1H, CH), 1.41 (d, 3H, CH3). 1H NMR (300 MHz, DMF-d7): δ 7.85 (d, 1H, Ar—H), 7.68 (m, 2H, Ar—H), 7.47 (t, 1H, Ar—H), 4.62 (d, 2H, CH2), 3.63 (q, 1H, CH), 1.32 (d, 3H, CH3).

reactant | 2-(2-nitrophenyl)propanol | 1.20 mmol, 0.219 g | [N+](=O)([O-])C1=C(C=CC=C1)C(CO)C | C9H11NO3
reactant | triethylamine | 2.4 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.92 mmol, 0.27 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(2-nitrophenyl)propyl triflouroacetate | FC(C(=O)OCC(C)C1=C(C=CC=C1)[N+](=O)[O-])(F)F | C11H10F3NO4
